US07585881B2
N-cyclopropyl-4-methyl-5-pyridin-4-yl-4H-1,2,4-triazol-3-amine
Isonicotinoyl chloride hydrochloride (630 mg, 3.5 mmol) was added to N-cyclopropyl-N′-methylcarbonohydrazonic diamide hydroiodide (900 mg 3.5 mmol) in pyridine (10 ml) and the mixture was stirred at r.t. for 2 h. The mixture was the heated to 160° C. under microwave irradiation for 10 min. Water (50 ml) was added and the mixture was extracted with DCM. The pooled organic phases were dried and concentrated and the desired product was obtained by prep. HPLC. LCMS (M++1) 216

reactant | Isonicotinoyl chloride hydrochloride | 3.5 mmol, 630 mg | Cl.C(C1=CC=NC=C1)(=O)Cl
reactant | N-cyclopropyl-N′-methylcarbonohydrazonic diamide hydroiodide | 3.5 mmol, 900 mg | I.C1(CC1)NC(NC)=NN
reactant | Water | 50 ml | O | H2O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | N-cyclopropyl-4-methyl-5-pyridin-4-yl-4H-1,2,4-triazol-3-amine | C1(CC1)NC1=NN=C(N1C)C1=CC=NC=C1 | C11H13N5
